US04794188
4-[2-(1-Hydroxyhexyl)-5-thienylmethoxy]quinoline
To a well-stirred solution of 4-hydroxyquinoline (2 g, 0.014 mol) and 5-bromomethyl-2-(1-hydroxyhexyl)thiophene (3.82 g, 0.014 mol) in DMSO (50 ml) was added a 2N solution of sodium hydroxide (8 ml, 0.016 mol). The mixture became warm immediately. This clear solution was stirred overnight at room temperature, and then was poured into water (200 ml). The aqueous solution was extracted thoroughly with ethyl acetate (4×30 ml). The organic extract was washed with water and brine, and then dried over MgSO4. All volatiles were removed, and the crude product was purified chromatographically (silica gel; 15% ethyl acetate in hexane) to yield 2.1 g (44%) of the pure product.

reactant | 4-hydroxyquinoline | 0.014 mol, 2 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | 5-bromomethyl-2-(1-hydroxyhexyl)thiophene | 0.014 mol, 3.82 g | BrCC1=CC=C(S1)C(CCCCC)O | C11H17BrOS
reactant | sodium hydroxide | 0.016 mol, 8 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-[2-(1-Hydroxyhexyl)-5-thienylmethoxy]quinoline | 2.1 g, 44% | OC(CCCCC)C=1SC(=CC1)COC1=CC=NC2=CC=CC=C12 | C20H23NO2S
